US05006548
Preparation of methyl 2-[3-(1-tertiary butoxycarbonyl-1H-imidazole-4-yl)acrylamido]benzoate (Process b)
N-t-butoxycarbonylurocanic acid [prepared from urocanic acid and di-t-butyl dicarbonate; cf. U.S. Pat. No. 4,313,948] (2.5 g, 10.50 mmol), triethylamine (2.55 g, 25.20 mmol), and 2-chloro-1-methylpyridinium iodide (3.129 g, 12.60 mmol) were stirred in dry methylene chloride under nitrogen stream at room temperature for 1 hour. The methyl 2-aminobenzoate (1.587 g, 10.50 mmol) was added and the mixture was refluxed at 40° C. for 18 hours. The title compound was separatied directly by preparative TLC using silica gel [developing solvent: ethyl acetate:benzene=1:4]. The silica gel was extracted with solvent, and after removal of the solvent, the residue was crystallized by treating with isopropylether to give white solids of the title compound (190 mg, yield, 7%). m.p., 156°-157° C.

reactant | urocanic acid | C1=C(NC=N1)/C=C/C(=O)O | C6H6N2O2
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 25.20 mmol, 2.55 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 12.60 mmol, 3.129 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | methyl 2-aminobenzoate | 10.50 mmol, 1.587 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-[3-(1-tertiary butoxycarbonyl-1H-imidazole-4-yl)acrylamido]benzoate | C(C)(C)(C)OC(=O)N1C=NC(=C1)C=CC(=O)NC1=C(C(=O)OC)C=CC=C1 | C19H21N3O5
